US05846989
f) Methyl 3-[2-[2-(4-fluoropheny)ethoxy]ethylaminosulphonyl]propanoate
The subtitle compound (8.32 g) was prepared according to the method of Example 3d) using 2-[2-(4-fluorophenyl)ethoxy]ethanamine (5.36 g), triethylamine (4.6 ml) and methyl 3-(chlorosulphonyl)propanoate (5.6 g) in diethyl ether (150 ml).

reactant | 2-[2-(4-fluorophenyl)ethoxy]ethanamine | 5.36 g | FC1=CC=C(C=C1)CCOCCN | C10H14FNO
reactant | triethylamine | 4.6 ml | C(C)N(CC)CC | C6H15N
reactant | methyl 3-(chlorosulphonyl)propanoate | 5.6 g | ClS(=O)(=O)CCC(=O)OC | C4H7ClO4S
solvent | diethyl ether | 150 ml | C(C)OCC | C4H10O
product | Methyl 3-[2-[2-(4-fluoropheny)ethoxy]ethylaminosulphonyl]propanoate | 8.32 g | FC1=CC=C(C=C1)CCOCCNS(=O)(=O)CCC(=O)OC | C14H20FNO5S
